US07071201B2
Example 138: Synthesis of 1-[1-(4-fluorophenethyl)-piperdin-4-yl]-6-(1-hydroxypropyl)indoline
A 3 M solution (1.4 ml) of ethylmagnesium in ether was added dropwise at −78° C. into a solution of 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-formylindoline (1.0 g) in tetrahydrofuran (30 ml) and the resultant mixture was allowed to warm to room temperature. Then a saturated aqueous solution of ammonium chloride and ethyl acetate were added to the reaction solution and the layers were separated. The organic layer was washed with brine and dried over magnesium sulfate. After removing the solvent, the residue was purified by NH-silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (710 mg) as a colorless oil (yield: 66%).

reactant | ethylmagnesium | C(C)[Mg]
reactant | 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-formylindoline | 1.0 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)C=O)C=C1 | C22H25FN2O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-[1-(4-fluorophenethyl)-piperdin-4-yl]-6-(1-hydroxypropyl)indoline | 710 mg, yield: 66% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)C(CC)O)C=C1 | C24H31FN2O
